US04544504
Palmitoyl chloride (651 mg, 2.2 mole) was added to pyridinium poly(hydrogen fluoride) (1 ml) in a teflon reaction vial and the mixture stirred at 20° C. for 20 min. After cooling to 0° C., it was quenched with ice-water (5 ml), extracted with ethyl acetate, and the organic layer washed (water, brine), dried over anhydrous magnesium sulfate, concentrated and evaporatively distilled (120° C./0.025 torr) to give palmitoyl fluoride (76%) (contaminated with 5% of the corresponding acid). Since this concentration of contaminant is not harmful to the biological activity of the compound, no further purification is required.

reactant | Palmitoyl chloride | 2.2 mole, 651 mg | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | pyridinium poly(hydrogen fluoride) | 1 ml | C1=CC=NC=C1.F
product | palmitoyl fluoride | 76% | C(CCCCCCCCCCCCCCC)(=O)F | C16H31FO
